Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Seasonal
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ with hypothyroidism here with persistent 
for 2 weeks found to have large L SDH. 

Of note, pt has a history of migraine headaches in her teenage 
years characterized by throbbing, photophobia, phonophobia for 
which she took as needed strong painkillers–does not remember 
the name.  After this, she had rare tension headaches for which 
she took Tylenol.

Several months ago in the context of having a particularly  bad 
flare of laryngopharyngeal reflux, esophageal spasm she began 
having several tension type headaches per week for which she was 
taking Tylenol several times per week.  This flare of her 
laryngopharyngeal reflux led to weight loss of 18 pounds due to 
inability to eat regularly.  She is able to eat simple pasta but 
not rice.  She is able to consume honey, yogurt, milk.  She 
cannot drink regular water but can only keep this down if there 
is honey in it.  She has undergone a GI workup including a 
scope.

2 weeks ago, over a period of 1 day, she had gradual onset of a 
more severe headache involving the occipital part of her head 
extending into her neck.  This headache was worse when standing 
or sitting comparing to lying down.  There was no traumatic 
insult including no car accident, no fall, no tripping, no 
vigorous massage (though she has been rubbing her neck more 
after her reflux exacerbation), no heavy lifting.  She has been 
coughing somewhat and sneezing ever since the headache began but 
this has not been particularly severe.  The headache worsens 
when she coughs, sneezes, or bends over.  No blurry vision, 
diplopia, transient visual obscuration.  She has had nausea for 
around 1 day but no vomiting.

She presented to her primary care provider who sent her to 
urgent care for noncontrast head CT due to concern for brain 
mass versus bleed.  Her noncontrast head CT and ___ 
showed large left subdural hematoma as well as right hygroma.  
She was transferred to ___ for further evaluation and workup.

On neurologic review of systems, she has had hearing difficulty 
ever since a left eardrum perforation as well as tinnitus in the 
left ear.  No pulsatile tinnitus.  The patient denies 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, dysarthria. Denies focal muscle weakness, 
numbness, parasthesia. Denies loss of sensation. Denies 
difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills.  Denies cough, shortness of breath.  Denies chest pain 
or tightness, palpitations.  Denies vomiting, diarrhea, 
constipation or abdominal pain.  No recent change in bowel or 
bladder habits.  No dysuria.  Denies arthralgias or myalgias. 
Denies rash.

 
Past Medical History:
PAPILLARY THYROID CANCER                                        
HYPOTHYROIDISM 
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___  BRAIN CANCER                              
                      HYPERLIPIDEMIA                            
                      OSTEOPOROSIS                              

Father   ___ ___  LIVER CANCER                              

Sister                BREAST CANCER               Z80.3 dx: 60  
                                                  ___ well    

 
Physical Exam:
ON ADMISSION
============
Vitals: 90 7.6F, HR 96, BP 123/107 --> 114/58, RR 16, 100% on 
room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, dry mucous membranes, no 
lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: Right hand redder and warmer than the left, 
nontender, unclear reason.  Equal pulses radial and dorsal 
pedal.  No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects. Speech 
was not dysarthric. Able to follow both midline and appendicular 
commands. Pt was able to register 3 objects and recall ___ at 5 
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation.  Unable to see 
optic disks on funduscopic exam–suspect due to inability of the 
patient to stop re-fixating in addition to pupillary 
contraction.  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, difficulty relaxing in the legs with 
testing of tone.  Right hand pronates slightly on testing of 
drift.  No adventitious movements, such as tremor, noted. No 
asterixis noted.
  Delt Bic ___ WrE FFl FE IP Quad Ham TA ___
L  5    5-  ___  5  4+   5   4*  4+   5     4+  4+
R  4+   4+  4+  ___  4+   5   4*  4+   5     4+  4+
Some pain in the right arm. Some cramping with testing of 
bilateral hamstrings and some give way.
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense ___ at toes), proprioception throughout. 
No extinction to DSS.
-DTRs:
  ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response was mute bilaterally.
-Coordination: Right more than left intention tremor. No 
dysdiadochokinesia. No dysmetria on FNF or HKS bilaterally.
-Gait: Not tested

ON DISCHARGE
============
Vitals: Temp: 98.3  BP: 130/69  HR: 81 RR: 18 SaO2: 99% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM. There is a chronic
perforation of the left TM, no active fluid leak seen.
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, NT/ND
Extremities/Back: Symmetric, no edema. No pain to palpation of
cervical spine or cervical paraspinous muscles. 

Neurologic:
-Mental Status: Alert, oriented x 3. Attentive, able to name ___ 
backward without difficulty. Language is fluent with intact 
repetition and comprehension. There were no paraphasic errors. 
-Cranial Nerves: PERRL 3mm to 2mm and brisk. VFF to 
confrontation. EOMI without nystagmus. Facial sensation intact 
to light touch. Face symmetric at rest and with activation. 
Hearing intact to conversation. Palate elevates symmetrically. 
___ strength in trapezii bilaterally. Tongue protrudes in 
midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt  Bic ___ WrE  FFl  FE  IP  Quad  Ham  TA  ___  ___ 
___
L  5+   5-  5+   5    ___    5     4+  4+     5     4+   
4+
R  4+   4+  5+   5    ___    5     4+  4+     5     4+   
4+
-Sensory: Proprioception intact BUE. Intact to LT throughout. No
deficits to light touch, cold sensation, vibratory sense ___
seconds), proprioception throughout.
-DTRs:
 ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

 
Pertinent Results:
ADMISSION LABS
==============
___ 04:00PM BLOOD WBC-5.1 RBC-4.81 Hgb-14.7 Hct-44.5 MCV-93 
MCH-30.6 MCHC-33.0 RDW-12.6 RDWSD-42.5 Plt ___
___ 04:00PM BLOOD ___ PTT-33.8 ___
___ 04:00PM BLOOD Glucose-112* UreaN-11 Creat-0.6 Na-143 
K-3.9 Cl-102 HCO3-24 AnGap-17
___ 05:00AM BLOOD CK(CPK)-49
___ 05:00AM BLOOD TSH-0.40
___ 05:09PM URINE Color-Straw Appear-Clear Sp ___
___ 05:09PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

IMAGING
=======
CT HEAD W/O CONTRAST ___.  Relatively hyperdense large subdural hematoma along the left 
cerebral 
convexity, with biconvex regions more inferiorly, which could 
represent a 
component of epidural hemorrhage.  No evidence of calvarial 
fracture. 
2.  Bilateral low-density frontal subdural collections likely 
represent old hematomas or hygromas. 
3.  Associated bilateral frontal mass-effect, denoted by sulcal 
effacement.  No shift of normally midline structures. 

CTA HEAD/NECK ___:
1. Stable large left subdural hematoma up to 2.5 cm with stable 
mass effect. 
2. Stable small hypodense right subdural collection, compatible 
with hygroma versus chronic hematoma, up to 0.7 cm. 
3. Slit-like ventricles, effacement of the perimesencephalic 
cisterns, and 
sagging of the brainstem and corpus callosum suggestive of 
intracranial 
hypotension.  Please refer to the subsequent brain MRI report 
for further 
detail. 
4. Normal CTA of the head and neck. 
5. No evidence for dural venous sinus thrombosis. 

MRI C/T/L SPINE W/ AND W/O CONTRAST ___:
1. There are multilevel perineural cysts, large in the sacrum, 
as described above.  No pericystic fluid collection to suggest 
active CSF leakage (although this is very infrequently seen). 
The largest perineural cyst in the cervical spine appears 
slightly irregular at the left C6-7 level. 
2. Moderate to severe spinal canal narrowing at C5-C6 with 
effacement of CSF around the spinal cord, but no evidence for 
cord signal abnormalities. 
3. Mild lumbar degenerative disease.

MRI HEAD W/ AND W/O CONTRAST ___:
1. Stable large left convexity subdural hemorrhage with stable 
mass effect. 
2. Stable small right subdural hygroma. 
3. Diffuse pachymeningeal contrast enhancement, slit-like 
ventricles, mild 
downward displacement of the cerebellar tonsils, and other 
above-described 
findings are highly suggestive of intracranial hypotension. 

CT ORBITS W/ THIN CUTS THROUGH TEMPORAL BONE ___:
1. No findings to indicate or localize a CSF leak. 
2. Intracranial findings were better seen on recent MRI brain.
3. Chronic partial left contraction from chronic inflammation. 

 

 
Brief Hospital Course:
Ms ___ is a ___ year old woman who presented with headache worse 
after sitting up and coughing, found to have large atraumatic L 
SDH. Vascular etiologies including AVM, aneurysm, DVST were 
evaluated with CTA/CTV head which was unremarkable. While she 
has some history of easy bruising the last year she has no 
coagulopathy per her INR/PTT.

Given the findings of intracranial hypotension on her MRI, as 
well as the positional nature of her headache, most likely 
etiology of her SDH is a CSF leak. Possible sources include the 
spine, as well as the inner ear, especially given her history of 
perforated TM. An MRI of the spine was obtained and showed no 
overt CSF leak, but did show numerous perineural cysts, placing 
her at risk for CSF leak. CT of the temporal bone was obtained 
to evaluate for possible CSF otorrhea, but this was 
unremarkable. 

Anesthesia was consulted for epidural blood patch, given the 
high clinical suspicion for occult CSF leak. However, the 
patient declined this, and opted instead for close outpatient 
monitoring and conservative management of her headache. She will 
have a repeat head CT in ___ days (as an outpatient) to 
evaluate the SDH. For symptomatic management, we would recommend 
aggressive PO hydration, Tylenol, warm compresses, and caffeine. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 75 mcg PO DAILY  
2.Outpatient Physical Therapy
Evaluate and treat
Diagnosis: Subdural hemorrhage

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subdural hemorrhage
Headache due to intracranial hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital because you had a headache. We found 
that you had a bleed around the surface of your brain. We 
believe that this bleed was caused by a leak of the fluid that 
surrounds your brain (cerebrospinal fluid).

In the hospital, we did several scans to look for a leak of 
fluid, but we did not find any.

When you leave the hospital, you should continue to take your 
same medicines. For your headache, we would recommend you drink 
plenty of fluids. Caffeine can also be helpful.

If you have any worsening headache, vision changes, trouble 
speaking, or weakness, you should call your doctor or return to 
the Emergency Department. 

Best wishes,
Your ___ team
 
Followup Instructions:
___